US06310208B1
130 ml of a 40% solution of benzyltrimethylammonium hydroxide in methanol (Triton B) were added to a solution of 126.5 g (651.2 mmol) of 4-ethyl-3,5-dimethoxy-benzaldehyde and 80.89 g (651.2 mmol) of methyl methylthiomethyl sulphoxide in 300 ml of tetrahydrofuran and the mixture was heated at reflux for 5 hours. After the addition of 300 ml of methylene chloride the mixture was extracted with 200 ml of 0.5M sulphuric acid. The organic phase was dried (MgSO4), filtered and evaporated. Chromatography of the resulting residue (silica gel, ethyl acetate/hexane 1:1) yielded 134.6 g (69%) of (E)-2-ethyl-5-(2-methylsulphanyl-2-methylsulphinyl-vinyl)-1,3-dimethoxybenzene as a colorless oil, which gave colorless crystals of m.p. 82-83° by crystallization from hexane.

reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | 4-ethyl-3,5-dimethoxy-benzaldehyde | 651.2 mmol, 126.5 g | C(C)C1=C(C=C(C=O)C=C1OC)OC | C11H14O3
reactant | methyl methylthiomethyl sulphoxide | 651.2 mmol, 80.89 g | CSCS(=O)C | C3H8OS2
reactant | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | (E)-2-ethyl-5-(2-methylsulphanyl-2-methylsulphinyl-vinyl)-1,3-dimethoxybenzene | 134.6 g, 69% | C(C)C1=C(C=C(C=C1OC)\C=C(\S(=O)C)/SC)OC | C14H20O3S2
